US07790709B2
Preparation of (E)-3-[6-Amino-5-(4-benzyl-piperidin-1-ylmethyl)pyridin-3-yl]-N-methyl-N-(1-methyl-1H-indol-2-ylmethyl)acrylamide hydrochloride
According to the procedure of Example 1, except substituting (E)-3-[6-amino-5-(4-benzyl-piperidin-1-ylmethyl)-pyridin-3-yl]acrylic acid hydrochloride for the (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride, and substituting methyl-(1-methyl-1H-indol-2-ylmethyl)amine for the methyl-(1-propyl-naphthalen-2-ylmethyl)amine, the title compound (156 mg, 30%) was prepared as an off-white powder and as a mixture of amide rotamers: 1H NMR (300 MHz, DMSO-d6) δ 8.36-8.25 (m, 2H), 7.52-6.98 (m, 14H), 6.40-6.15 (m, 1H), 5.05-4.84 (m, 2H), 4.20 (s, 2H), 3.74-3.67 (m, 3H), 3.58-5.30 (m, 8H), 3.10-2.73 (m, 6H); MS (ESI) m/e 508 (M+H)+.

reactant | (E)-3-[6-amino-5-(4-benzyl-piperidin-1-ylmethyl)-pyridin-3-yl]acrylic acid hydrochloride | Cl.NC1=C(C=C(C=N1)/C=C/C(=O)O)CN1CCC(CC1)CC1=CC=CC=C1
reactant | (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride | Cl.CN1CC(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O
reactant | methyl-(1-methyl-1H-indol-2-ylmethyl)amine | CNCC=1N(C2=CC=CC=C2C1)C | C11H14N2
reactant | methyl-(1-propyl-naphthalen-2-ylmethyl)amine | CNCC1=C(C2=CC=CC=C2C=C1)CCC | C15H19N
product | (E)-3-[6-Amino-5-(4-benzyl-piperidin-1-ylmethyl)pyridin-3-yl]-N-methyl-N-(1-methyl-1H-indol-2-ylmethyl)acrylamide hydrochloride | 156 mg, 30% | Cl.NC1=C(C=C(C=N1)/C=C/C(=O)N(CC=1N(C2=CC=CC=C2C1)C)C)CN1CCC(CC1)CC1=CC=CC=C1 | InChI=1S/C32H37N5O.ClH/c1-35(23-29-20-27-10-6-7-11-30(27)36(29)2)31(38)13-12-26-19-28(32(33)34-21-26)22-37-16-14-25(15-17-37)18-24-8-4-3-5-9-24;/h3-13,19-21,25H,14-18,22-23H2,1-2H3,(H2,33,34);1H/b13-12+;
